US06515124B2
A suspension of 2,6-dichloro-4-[[(3-methoxybenzyl)amino]carbonyl]benzoic acid, methyl ester (11.83 g, 32.1 mmol) in dichloromethane (400 mL) was cooled to ˜−78° C. (dry ice-acetone bath) and boron tribromide (1M in dichloromethane; 100 mL, 100 mmol) was added. The mixture was stirred in the cooling bath for 3 h and then allowed to stand at room temperature for 72 h. The supernatant was decanted off and water (300 mL) was added to each of the supernatant and the residue. The mixtures were stirred at ˜40° C. for 1 h and then the solids were collected by filtration, combined and air-dried to give 2,6-dichloro-4-[[(3-hydroxybenzyl)amino]carbonyl]benzoic acid (8.73 g, 80% yield) as a cream-colored solid.

reactant | 2,6-dichloro-4-[[(3-methoxybenzyl)amino]carbonyl]benzoic acid, methyl ester | 32.1 mmol, 11.83 g | ClC1=C(C(=O)OC)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)OC)Cl | C17H15Cl2NO4
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | boron tribromide | 100 mmol, 1M, 100 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 2,6-dichloro-4-[[(3-hydroxybenzyl)amino]carbonyl]benzoic acid | 8.73 g, 80% yield | ClC1=C(C(=O)O)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)O)Cl | C15H11Cl2NO4
